US04303583
2,3-Dihydro-5-methoxy-1H-indole-2-carboxylic acid ethyl ester
A three neck 3-liter round bottom flask equipped with a mechanical stirrer, water condenser, and a gas inlet tube was charged with 500 ml. of absolute ethanol and chilled in a dry ice-acetone bath. Dry hydrogen chloride gas was added at a rapid rate for 0.5 hours. Fifty grams of 5-methoxyindole-2-carboxylic acid ethyl ester (B. Heath-Brown and P. G. Philpott, J. Chem. Soc. 1965, 7185) followed by 100 g. of tin metal (30 mesh) were added to the solution with stirring. With the dry ice bath in place, but with no additional cooling the reaction mixture was stirred gently for 6 hours. The crystalline solid that separated was removed by filtration. The mother liquor was evaporated under reduced pressure to give an oil. The oil dissolved in 500 ml. of absolute ethanol, was placed in a 3-liter round bottom flask equipped with a stirrer and thermometer, and chilled to 10°. Gaseous ammonia was bubbled into the mixture until the pH was 9 (by wet pH paper) and the mixture was allowed to stand at 10° for one hour. The white precipitate was filtered and the filtrate was evaporated on a rotary evaporator to dryness. The initial white precipitate and the residue from the evaporation were combined and triturated repeatedly with warm ether. The combined ether triturates were washed with a sodium chloride solution (a water:saturated salt solution, 1:1) with vigorous shaking; whereupon most of the basic tin salts were suspended and separated in the aqueous phase. Both phases were filtered through Celite and separated. The ether solution was dried over magnesium sulfate and evaporated under reduced pressure on the rotary evaporator. The oily residue was dried in vacuo to give 22 g. of d,l-2,3-dihydro-5-methoxy-1H-indole-2-carboxylic acid ethyl ester.

reactant | hydrogen chloride | Cl | ClH
reactant | 5-methoxyindole-2-carboxylic acid ethyl ester | Fifty grams | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OC | C12H13NO3
reactant | tin | [Sn] | Sn
reactant | dry ice | C(=O)=O | CO2
solvent | ethanol | C(C)O | C2H6O
product | 2,3-Dihydro-5-methoxy-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1NC2=CC=C(C=C2C1)OC | C12H15NO3
